Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lamotrigine
 
Attending: ___.
 
Chief Complaint:
Left leg pain and weakness causing fall

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with a history of DVT (last clot
___ years ago provoked by malignancy), cellulitis, hypertension,
brain tumor - now with seizure disorder, thyroid cancer - now
with hypothyroidism,  who has had significant stressor of her 
son
being in our ICU here this last month and after a visit this 
past
___ into ___, she became extremely fatigued, slept from
7PM ___ to 10AM ___, and woke up with profound general
weakness.  She describes the weakness as severe enough to limit
her mobility to crawling around her house, and does endorse
having 1 fall yesterday. She also endorses decreased PO intake
around this episode of weakness. 

She did not call anyone when this weakness was ongoing over the
day ___, because she didn't want to add 1 more stressor to 
the
family. She did her best to "scooch" around the house; however
was only able to drink a little bit of water and eat some apple
sauce. When awakening today, ___, she states that she
actually felt a little better and was able to walk. What end up
bringing her into the hospital and prompted her to call family
was that she noticed that she developed redness, pain, and 
warmth
of the LLE concerning her for cellulitis. She's had this in the
past and knows that she needs antibiotics for this issue.
Although her weakness had been resolving, it was also still a
major concern of hers and another reason bringing her in. 

Has not had any fever, chest pain, SOB, cough, abdominal pain,
nausea, vomiting, or diarrhea.
 

 In the ED: 
 =================================  
 - Initial vital signs were notable for:  Temp 98.2, HR 71, BP
118/59, SpO2 99% on RA, Pain ___

 - Exam notable for:  
Cellulitis of the LLE (erythematous, edematous, warm to touch).
Exam otherwise unremarkable. 

 - Labs were notable for:  
CK 1171
ALT 63, AST 66, AP 53, Tbili 0.3
WBC 10.5 (N 81.6%), Hgb 12.4, Hct 39.6, Plt 242
Phos 2.5
Lactate 1.3
Trop-T < 0.01
Na 135  Cl 95  BUN 31  Glu 87   AGap=14 
K 4.0  CO2 26  Cr 0.9  

 - Studies performed include:  
Chest Xray PA & Lat: 
No acute cardiopulmonary process.

Unilateral Lower Ext Venous U/S Left: 
1. No evidence of deep venous thrombosis in the left lower
extremity veins.  
2. Subcutaneous edema in the region of clinical concern along
left calf. 

EKG: Normal sinus rhythm

Blood Cultures x2

 - Patient was given:  
LR 1L
Clindamycin 600mg IV
Acetaminophen 1000mg

 - Consults:  
None at this time

 - Vitals on transfer: 
Temp 97.9, HR 73, BP 130/80, RR 18, SpO2 98% RA

 Upon arrival to the floor, a full HPI and PMH was reviewed with
the patient and she endorses the above information.  
 REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
DVT (last clot ___ years ago - provoked by malignancy)
Thyroid Cancer 
Hypothyroidism
Brain Tumor
Seizure Disorder
Melanoma 
Cellulitis
Hypertension
Anxiety

 
Social History:
___
Family History:
No family history of DVT
Father: HTN
Mother: Heart Valve Replacement
Otherwise unremarkable
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
24 HR Data (last updated ___
    Temp: 97.9 (Tm 97.9), BP: 120/73 (120-130/73-80), HR: 79
(73-79), RR: 18, O2 sat: 96% (96-98), O2 delivery: Ra, Wt: 172.4
lb/78.2 kg  
 
 GENERAL: Alert and interactive. In no acute distress.  
 EYES: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.

 ENT: MMM. Thyroidectomy, no nodules. No cervical
lymphadenopathy. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
 RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
 MSK: No spinous process tenderness. No CVA tenderness. No
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
Does have some proximal weakness in the left thigh on hip 
flexion
vs. right side.  
 SKIN: Warm. Cap refill <2s. LLE has erythema extending from the
top of the foot to about 3 inches below the knee on the anterior
aspect of the leg. Area is warm and tender to the touch. Minimal
swelling, no purulence or crepitation. 
 NEUROLOGIC: AOx3. CN2-12 intact. ___ strength throughout. 
Normal
sensation. Gait is normal.  
 PSYCH: appropriate mood and affect; clearly saddened by her
medical problems currently, as well as her son's.   

DISCHARGE PHYSICAL EXAM
========================

24 HR Data (last updated ___ @ 548)
    Temp: 97.6 (Tm 97.9), BP: 92/56 (92-130/56-80), HR: 61 
(61-79), RR: 18, O2 sat: 91% (91-98), O2 delivery: Ra, Wt: 172.4 
lb/78.2 kg   
 GENERAL: Alert and interactive. In no acute distress.  
 EYES: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. 
 ENT: MMM. Thyroidectomy, no nodules. No cervical 
lymphadenopathy. No JVD.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
 RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No organomegaly.  
 MSK: No spinous process tenderness. No CVA tenderness. No 
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally. 
 SKIN: Warm. Cap refill <2s. LLE has erythema extending from the 
top of the foot to about 3 inches below the knee on the anterior 
aspect of the leg. Area is warm and tender to the touch. Minimal 
swelling, no purulence or crepitation. 
 NEUROLOGIC: AOx3. CN2-12 intact. ___ strength throughout.
 
Pertinent Results:
ADMISSION LABS
=================
___ 01:37PM BLOOD WBC-10.5* RBC-4.33 Hgb-12.4 Hct-39.6 
MCV-92 MCH-28.6 MCHC-31.3* RDW-13.4 RDWSD-45.4 Plt ___
___ 01:37PM BLOOD Neuts-81.6* Lymphs-12.0* Monos-4.3* 
Eos-1.0 Baso-0.5 Im ___ AbsNeut-8.60* AbsLymp-1.27 
AbsMono-0.45 AbsEos-0.11 AbsBaso-0.05
___ 01:37PM BLOOD Glucose-87 UreaN-31* Creat-0.9 Na-135 
K-4.0 Cl-95* HCO3-26 AnGap-14
___ 01:37PM BLOOD ALT-63* AST-66* CK(CPK)-1171* AlkPhos-53 
TotBili-0.3
___ 01:37PM BLOOD Albumin-4.1 Calcium-9.3 Phos-2.5* Mg-2.1
___ 07:10PM BLOOD TSH-1.2
___ 01:44PM BLOOD Lactate-1.3

DISCHARGE LABS
==================
___ 07:00AM BLOOD WBC-5.9 RBC-3.74* Hgb-10.8* Hct-34.2 
MCV-91 MCH-28.9 MCHC-31.6* RDW-13.3 RDWSD-45.0 Plt ___
___ 07:00AM BLOOD Glucose-98 UreaN-20 Creat-0.8 Na-140 
K-4.7 Cl-103 HCO3-26 AnGap-11
___ 07:00AM BLOOD ALT-45* AST-40 LD(LDH)-216 CK(CPK)-473* 
AlkPhos-46 TotBili-0.2

IMAGING 
===================
Left Lower Extremity US ___ 

IMPRESSION:  
  
No evidence of deep venous thrombosis in the left lower 
extremity veins.  
Subcutaneous edema in the region of clinical concern along left 
calf. 

CXR ___ 
FINDINGS:  
  
Streaky linear opacities at the lung bases may reflect 
atelectasis. No focal 
consolidation is seen.  No pleural effusion or pneumothorax.  No 
evidence of 
pulmonary edema.  The cardiomediastinal contours are within 
normal limits. 
  
IMPRESSION:  
  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
SUMMARY
================
___ female patient with a history of lower extremity cellulitis 
after melanoma and lymph nodes were removed from her left upper 
thigh, prior provoked DVTs (last ___ years ago), and significant 
life stressors who presented with acute onset fatigue, 
generalized weakness likely due to viral syndrome and LLE 
cellulitis. She was started on cephalexin QID on ___ and will 
complete a 7 day course of antibiotics. 

ACUTE ISSUES
======================
#LLE Cellulitis 
Patient presenting with non-purulent, non-crepitant area of 
erythema and warmth of the LLE between the ankle and the knee. 
Patient denies prior trauma to the site but does note that she 
has had prior episodes of cellulitis in the past in this region. 
Given concern for cellulitis, she was started on cephalexin 
500mg QID for cellulitis for 7 day treatment (___). 

#Generalized Weakness
Patient presenting with several days of progressive fatigue and 
myalgias. She endorses generalized abdominal pain and myalgias 
associated with significant fatigue. The combination of symtpoms 
concerning for acute viral infection. Patient significantly 
improved by discharge. She was evaluated by ___ who determined 
that patient was safe to discharge home. 

#Elevated CK 
Patient presenting with CK 1171 at admission in the setting of 
several days of significant weakness and fatigue likely 
occurring due to viral infection (?rhabdomyolysis, though 
creatinine stayed WNL). Patient endorsing myalgias and feeling 
improved throughout admission. CK downtrended to 400 prior to 
discharge. 

CHRONIC ISSUES
======================
#Hypertension 
- continued lisinopril 20mg daily 

#Anxiety 
Continued Venlafaxine XR 225 mg PO DAILY, as well as her 
clonazepam 0.25mg PO BID PRN for breakthrough symptoms.

#Hypothyroidism
Continued Levothyroxine Sodium 137 mcg PO DAILY.

#Insomnia 
Held Lunesta while in the hospital as not on formulary. 

#Seizure Disorder
Continued LACOSamide 100 mg PO BID and Gabapentin 600 mg PO QHS

#CODE: Full Code 
#CONTACT: 
 ___ (son) ___
 ___ (daughter in ___ ___. 

>30 minutes spent on discharge planning and care coordination on 
the day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Venlafaxine XR 225 mg PO DAILY 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Lunesta (eszopiclone) 3 mg oral QHS Insomnia 
5. ClonazePAM 0.25 mg PO BID:PRN Anxiety 
6. LACOSamide 100 mg PO BID 
7. Gabapentin 600 mg PO QHS 
8. Estrace (estradiol) 0.01 % (0.1 mg/gram) vaginal DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO QID 
RX *cephalexin 500 mg 1 capsule(s) by mouth Four times per day 
Disp #*24 Capsule Refills:*0 
2.  ClonazePAM 0.25 mg PO BID:PRN Anxiety  
3.  Estradiol (estradiol) 0.01 % (0.1 mg/gram) vaginal DAILY  
4.  Gabapentin 600 mg PO QHS  
5.  LACOSamide 100 mg PO BID  
6.  Levothyroxine Sodium 137 mcg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
8.  Lunesta (eszopiclone) 3 mg oral QHS Insomnia  
9.  Venlafaxine XR 225 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
===================
Cellulitis 
Viral Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted for weakness and cellulitis of your left 
leg.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You received antibiotics for your cellulitis. 
- You were seen by the physical therapy team who cleared you to 
go home. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___